US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(3-hydroxyphenyl)butyl]imidazole was allowed to react with 4-chloromethyl-2-[(E)-2-phenylethenyl]oxazole to give 4-[3-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole. The yield was 70%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 75-76° C.

reactant | 1-[4-(3-hydroxyphenyl)butyl]imidazole | OC=1C=C(C=CC1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 4-chloromethyl-2-[(E)-2-phenylethenyl]oxazole | ClCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C12H10ClNO
product | 4-[3-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-[(E)-2-phenylethenyl]oxazole | yield was 70% | N1(C=NC=C1)CCCCC=1C=C(OCC=2N=C(OC2)\C=C\C2=CC=CC=C2)C=CC1 | C25H25N3O2
